US07256298B2
To a solution of 10.4 g (50.0 mmol) of 1-tert-butyl-5-hydroxy-3-trifluoromethyl-1H-pyrazole in 50 ml of N,N-dimethylformamide was added 7.6 g (55.0 mmol) of anhydrous potassium carbonate at room temperature. While the reaction solution was stirred, an excess amount of chlorodifluoromethane was introduced into the reaction solution at 80° C. After the confirmation of disappearance of the starting material, the introduction of chlorodifluoromethane was stopped and the reaction solution was cooled to room temperature. Thereafter, the reaction solution was poured into water and extracted with diisopropyl ether. The resulting organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was distilled under reduced pressure to obtain 10.8 g (yield: 83.7%) of 1-tert-butyl-5-difluoromethoxy-3-trifluoromethyl-1H-pyrazole as a yellow liquid.

reactant | 1-tert-butyl-5-hydroxy-3-trifluoromethyl-1H-pyrazole | 50.0 mmol, 10.4 g | C(C)(C)(C)N1N=C(C=C1O)C(F)(F)F | C8H11F3N2O
reactant | potassium carbonate | 55.0 mmol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-tert-butyl-5-difluoromethoxy-3-trifluoromethyl-1H-pyrazole | 10.8 g, yield: 83.7% | C(C)(C)(C)N1N=C(C=C1OC(F)F)C(F)(F)F | C9H11F5N2O
